US05308820
To a solution of 2-hydroxy-3-phenylbenzyl alcohol (2.00 g, 10 mmol) in dioxane (100 ml) was added 2,3- dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (2.50 g, 11 ml) at room temperature. The reaction mixture immediately became a black solution. This solution was stirred at room temperature for 2 hours and further heated under refluxing for 2 hours. The solvent was removed under reduced pressure to obtain deep-black oily residue. This was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=4:1) to obtain 1.63 g (82%) of 3-phenylsalicylaldehyde as a light yellow oil.

reactant | 2-hydroxy-3-phenylbenzyl alcohol | 10 mmol, 2.00 g | OC1=C(CO)C=CC=C1C1=CC=CC=C1 | C13H12O2
reactant | 2,3- dichloro-5,6-dicyano-1,4-benzoquinone | 11 ml, 2.50 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-phenylsalicylaldehyde | 1.63 g, 82% | C1(=CC=CC=C1)C1=C(C(C=O)=CC=C1)O | C13H10O2
